US03991070
Following the procedure of Example 2, 5-nitro-2-[3-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone is reacted with N-bromosuccinimide to form 5-nitro-2-[3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 5-nitro-2-[3-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C24H15N5O5
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 5-nitro-2-[3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl]benzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Br | C24H14BrN5O5
